data/oMe_Silver.jsonl
{"reaction_id": "NR-134_1-c1ccc2ccccc2c1_2-c1ccc(C(F)(F)F)cc1","name": "Lombardo Methylenation","level": "medium","reactants_smiles": ["C(=O)(c1ccc2ccccc2c1)(c1ccc(C(F)(F)F)cc1)","C(Br)Br","[Zn]","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C)(c1ccc2ccccc2c1)(c1ccc(C(F)(F)F)cc1)"],"conditions": "CH2Br2, Zn, TiCl4","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "BrC[Zn]Br","rationale": "Zn inserts into the C–Br bond of CH2Br2 via oxidative addition due to the polarizable C–Br bond and Zn’s reducing ability, forming an organozinc intermediate."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "Br[Zn]C[Zn]Br","rationale": "A second oxidative addition to CH2Br2 occurs because Zn can further activate the methylene carbon, producing a geminal bis(zinc) species with enhanced nucleophilicity."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "Br[Zn]C[Ti](Cl)(Cl)Cl","rationale": "The organozinc transfers the methylene fragment to TiCl4 via electrophilic substitution, favored by Ti’s strong Lewis acidity and the good leaving ability of Zn–Br."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O[Ti](Cl)(Cl)Cl)(c1ccc2ccccc2c1)(c1ccc(C(F)(F)F)cc1)C[Zn]Br","rationale": "The titanium–carbene species adds nucleophilically to the carbonyl carbon, driven by the electrophilicity of the carbonyl and stabilization of the alkoxide by Ti coordination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C)(c1ccc2ccccc2c1)(c1ccc(C(F)(F)F)cc1)","rationale": "Elimination occurs as the alkoxide–Ti complex collapses, expelling Ti–O and forming the C=C bond, driven by the thermodynamic stability of the alkene."}],"description": "In the Lombardo methylenation, Zn activates CH2Br2 to form a zinc carbenoid, which is then transferred to TiCl4 to generate a titanium–carbene species. This electrophilic carbene adds to the carbonyl, and elimination yields the alkene."}
{"reaction_id": "NR-228_1-C1CCCCC1_2-c1ccc(C(F)(F)F)cc1_3-C1CCC1_4-c1ccc(N(=O)=O)cc1_5-C(c1ccccc1)C","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(C1CCCCC1)=C(c1ccc(C(F)(F)F)cc1)(C1CCC1)","c1ccc(N(=O)=O)cc1C(=O)OC(c1ccccc1)C"],"products_smiles": ["C(C1CCCCC1)1OC1(c1ccc(C(F)(F)F)cc1)C1CCC1"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C1CCCCC1)1OC1(c1ccc(C(F)(F)F)cc1)C1CCC1","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
{"reaction_id": "NR-223_1-c1ccccc1_2-c1ccc([N+](=O)[O-])cc1_3-C=C_4-c1ccccc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(c1ccccc1)(c1ccc([N+](=O)[O-])cc1)(O)C(O)(C=C)(c1ccccc1)"],"products_smiles": ["C(=O)(c1ccccc1)C(c1ccc([N+](=O)[O-])cc1)(C=C)(c1ccccc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(c1ccc([N+](=O)[O-])cc1)(O)C([OH2+])(C=C)(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(c1ccccc1)(c1ccc([N+](=O)[O-])cc1)(O)[C+](C=C)(c1ccccc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccccc1)C(c1ccc([N+](=O)[O-])cc1)(C=C)(c1ccccc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
